US07423035B2
4-[2-(1-benzyl-cyclopropylamino)-1-hydroxy-ethyl]-2-hydroxymethyl-phenol
Prepared according to general method 5 from 344 mg (1 mmol) methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate and 147 mg (1 mmol) 1-benzyl-cyclopropylamine. Yield: 184 mg (43%, trifluoroacetate); mass spectroscopy: [M+H]+=314.

reactant | methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate | 1 mmol, 344 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C(O)OCC)=O | C19H20O6
reactant | 1-benzyl-cyclopropylamine | 1 mmol, 147 mg | C(C1=CC=CC=C1)C1(CC1)N | C10H13N
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 4-[2-(1-benzyl-cyclopropylamino)-1-hydroxy-ethyl]-2-hydroxymethyl-phenol | C(C1=CC=CC=C1)C1(CC1)NCC(O)C1=CC(=C(C=C1)O)CO | C19H23NO3
